US06265575B1
Part H. 6-Benzyloxy-2-[4-[2-(1-pyrrolidinyl)ethoxy]phenyl]benzo[b]thiophen-3-yl 3-Methylamino-4-(1-pyrrolidinylmethyl)phenyl Ketone
The 379 mg of 6-benzyloxy-2-[4-[2-(1-pyrrolidinyl)ethoxy]phenyl]benzo[b]thiophen-3-yl 3-[(methoxycarbonyl)(methyl)amino]-4-(1-pyrrolidinylmethyl)phenyl ketone (Part G) was dissolved in 5.5 mL of dry CH2Cl2. To the solution was added 0.31 mL of trimethylsilyl iodide. The reaction mixture was stirred for 5.5 h. The reaction was quenched with 0.3 mL of MeOH and the mixture was concentrated to dryness under reduced pressure. Purification by flash chromatography (silica gel, 5% to 8% [10% conc NH4OH/MeOH]/CH2Cl2) afforded 130 mg (0.201 mmol, 37%) of a yellow foam.

reactant | 6-benzyloxy-2-[4-[2-(1-pyrrolidinyl)ethoxy]phenyl]benzo[b]thiophen-3-yl 3-[(methoxycarbonyl)(methyl)amino]-4-(1-pyrrolidinylmethyl)phenyl ketone | 379 mg | COC(=O)N(C=1C=C(C=CC1CN1CCCC1)C(=O)C=1C2=C(SC1C1=CC=C(C=C1)OCCN1CCCC1)C=C(C=C2)OCC2=CC=CC=C2)C | C42H45N3O5S
reactant | trimethylsilyl iodide | 0.31 mL | C[Si](C)(C)I | C3H9ISi
solvent | CH2Cl2 | 5.5 mL | C(Cl)Cl | CH2Cl2
product | 6-Benzyloxy-2-[4-[2-(1-pyrrolidinyl)ethoxy]phenyl]benzo[b]thiophen-3-yl 3-Methylamino-4-(1-pyrrolidinylmethyl)phenyl Ketone | 0.201 mmol, 130 mg, 37% | CNC=1C=C(C=CC1CN1CCCC1)C(=O)C=1C2=C(SC1C1=CC=C(C=C1)OCCN1CCCC1)C=C(C=C2)OCC2=CC=CC=C2 | C40H43N3O3S
